US04138256
Bis-(β-cyanoethyl)-2-methoxyethylphosphine
1.55 g of sodium are dissolved in 100 ml of absolute methanol under an atmosphere of argon and then 26 g (0.0685 mole) of tris-(β-cyanoethyl)-2-methoxyethyl-phosphonium iodide are added to this solution. The solution is refluxed for 4 hours. After the mixture has been poured into water, extraction is performed with three 40 ml portions of chloroform. The chloroform solution is dried over magnesium sulphate, the solvent is evaporated and the oily residue distilled in a high vacuum.

reactant | sodium | 1.55 g | [Na] | Na
reactant | tris-(β-cyanoethyl)-2-methoxyethyl-phosphonium iodide | 0.0685 mole, 26 g | [I-].C(#N)CC[P+](CCOC)(CCC#N)CCC#N
reactant | water | O | H2O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 100 ml | CO | CH4O
product | Bis-(β-cyanoethyl)-2-methoxyethylphosphine | C(#N)CCP(CCOC)CCC#N | C9H15N2OP
